US07435837B2
To a solution of (±)-2-hydroxy-3-(2-hydroxy-4-methoxyphenyl)propyl 4-methylbenzenesulfonate (32.27 g, 0.092 mol) in toluene (1000 mL) cooled to 0° C. was added triphenylphosphine (27.62 g, 0.105 mol) followed by dropwise addition of diethylazodicarboxylate (18.34 g, 0.105 mol) and the reaction mixture was allowed to stir at 0° C. for 15 min. The reaction mixture was quenched by the addition of water (10 mL). The solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:19) provided 22.53 g (74%) of (±)-(6-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a colorless oil. Rf=0.67 (silica, ethyl acetate:hexanes 1:9); Anal. calcd. for C17H18O5S: C, 61.06; H, 5.43. Found: C, 60.70; H, 5.37.

reactant | (±)-2-hydroxy-3-(2-hydroxy-4-methoxyphenyl)propyl 4-methylbenzenesulfonate | 0.092 mol, 32.27 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C=C(C=C1)OC)O)O | C17H20O6S
reactant | triphenylphosphine | 0.105 mol, 27.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.105 mol, 18.34 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
product | (±)-(6-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 22.53 g, 74% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC(=C2)OC | C17H18O5S
